US07355069B2
c) Methyl 2-{[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}benzoate
(4-{[2-(Methoxycarbonyl)benzyl]thio}phenyl)acetic acid (581 mg, 1.836 mmol) and N-(2,4-difluorobenzyl)-N-heptylamine (465.3 mg, 1.968 mmol) were combined in DMF and the mixture was cooled in an ice-bath. HOBT (260.6 mg, 1.928 mmol) and TBTU (619 mg, 1.928 mmol) were added, followed by DIPEA (747.7 mg 5.785 mmol). The mixture was stirred at room temperature overnight and then evaporated. The resulting mixture was partitioned between ethyl acetate and sodium hydrogencarbonate aqueous solution (sat.). The aqueous portion was extracted with ethyl acetate and the combined organic extracts was dried with magnesium sulphate and then evaporated. Chromatography of the residue on a column (ISOLUTE® SI, 20 g/70 ml) using ethyl acetate/heptane (5:95, then 10:90) as eluant gave 767 mg the desired product, yield 77%.

reactant | (4-{[2-(Methoxycarbonyl)benzyl]thio}phenyl)acetic acid | 1.836 mmol, 581 mg | COC(=O)C1=C(CSC2=CC=C(C=C2)CC(=O)O)C=CC=C1 | C17H16O4S
reactant | N-(2,4-difluorobenzyl)-N-heptylamine | 1.968 mmol, 465.3 mg | FC1=C(CNCCCCCCC)C=CC(=C1)F | C14H21F2N
reactant | HOBT | 1.928 mmol, 260.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 1.928 mmol, 619 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 5.785 mmol, 747.7 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2-{[(4-{2-[(2,4-difluorobenzyl)(heptyl)amino]-2-oxoethyl}phenyl)thio]methyl}benzoate | 767 mg, yield 77% | FC1=C(CN(C(CC2=CC=C(C=C2)SCC2=C(C(=O)OC)C=CC=C2)=O)CCCCCCC)C=CC(=C1)F | C31H35F2NO3S
